** sch_path: /mnt/c/Users/si150/eda/designs/heichips26-analog-workshop/ringosc/testbenches/xschem/ringosc_tb_tran.sch
**.subckt ringosc_tb_tran
VDD VDD GND {VDD}
C1 vout GND {Cload}
x1 vout VDD GND ringosc
**** begin user architecture code


.include ../../../netlist/pex/ringosc_magic_pex_3.spice
.param VDD=1.5
.csparam VDD=VDD
.param Vcm=VDD/2
.csparam Vcm=Vcm
.param temp=27
.param Cload=100f
.param Rload=1k
.options savecurrents reltol=1e-3 abstol=1e-12 gmin=1e-15
.control

save all

* Operating Point Analysis
op
remzerovec
write ringosc_tb_tran.raw
set appendwrite

* Transient Analysis
*tran 100p 5u 2u
tran 100p 2.55u 2.54u
write ringosc_tb_tran.raw

* Plotting
plot vout
plot i(VDD)

* Measurements
* Oscillation frequency from two consecutive rising crossings of the mid-level Vcm.
* The stored transient window has to contain at least two rising edges.
meas tran t_rise1 when v(vout)=Vcm rise=1
meas tran t_rise2 when v(vout)=Vcm rise=2
let T_osc = t_rise2 - t_rise1
let f_osc = 1/T_osc
print T_osc
print f_osc

* Stage delay of the three-stage ring, T_osc = 2 * N * t_d with N = 3
let t_d = T_osc/6
print t_d

* Output swing
meas tran vout_max MAX v(vout)
meas tran vout_min MIN v(vout)
let vout_pp = vout_max - vout_min
print vout_pp

* Write Data
unset appendwrite
set wr_vecnames
set wr_singlescale
wrdata ../plot_simulations/data/ringosc_tb_tran.txt v(vout)

*quit
.endc



.lib cornerMOSlv.lib mos_tt
.lib cornerMOShv.lib mos_tt
.lib cornerRES.lib res_typ
.lib cornerDIO.lib dio_tt

**** end user architecture code
**.ends

* expanding   symbol:  ringosc.sym # of pins=3
** sym_path: /mnt/c/Users/si150/eda/designs/heichips26-analog-workshop/ringosc/schematic/xschem/ringosc.sym
** sch_path: /mnt/c/Users/si150/eda/designs/heichips26-analog-workshop/ringosc/schematic/xschem/ringosc.sch
.subckt ringosc vout VDD VSS
*.iopin VDD
*.iopin VSS
*.opin vout
x1 VDD vosc net1 VSS inverter
x2 VDD net1 net2 VSS inverter
x3 VDD net2 vosc VSS inverter
x4 VDD vosc vout VSS inverter
.ends


* expanding   symbol:  inverter.sym # of pins=4
** sym_path: /mnt/c/Users/si150/eda/designs/heichips26-analog-workshop/ringosc/schematic/xschem/inverter.sym
** sch_path: /mnt/c/Users/si150/eda/designs/heichips26-analog-workshop/ringosc/schematic/xschem/inverter.sch
.subckt inverter VDD vin vout VSS
*.ipin vin
*.iopin VDD
*.iopin VSS
*.iopin vout
XMdummy1 VSS VSS VSS VSS sg13_lv_nmos w=2.0u l=1.0u ng=2 m=1 mm_ok=1
XMdummy2 VDD VDD VDD VDD sg13_lv_pmos w=12.0u l=1.0u ng=2 m=1 mm_ok=1
XM1 vout vin VSS VSS sg13_lv_nmos w=20.0u l=1.0u ng=20 m=1 mm_ok=1
XM2 vout vin VDD VDD sg13_lv_pmos w=120.0u l=1.0u ng=20 m=1 mm_ok=1
.ends

.GLOBAL GND
.GLOBAL VDD
.end
